US04279918
2-(α-cyano-4-nitrobenzylidene)-1-methylpyrrolidine
Stir 29.9 g of 2,2-diethoxy-1-methylpyrrolidine and 28 g of 4-nitrophenylacetonitrile in 80 ml of benzene for one hour at room temperature. Distil off the solvent from the resulting reaction mixture under a vacuum to produce a crystalline residue. Recrystallize this residue from ethanol/diethyl ether. Concentrate the mother liquor to obtain a total of 29.5 g (70% of theory) of the title compound as dark-brown shiny crystals of m.p. 67°.

reactant | 2,2-diethoxy-1-methylpyrrolidine | 29.9 g | C(C)OC1(N(CCC1)C)OCC | C9H19NO2
reactant | 4-nitrophenylacetonitrile | 28 g | [N+](=O)([O-])C1=CC=C(C=C1)CC#N | C8H6N2O2
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | 2-(α-cyano-4-nitrobenzylidene)-1-methylpyrrolidine | C(#N)C(C1=CC=C(C=C1)[N+](=O)[O-])=C1N(CCC1)C | C13H13N3O2
